US07005431B2
e) 6,2′-Difluoro-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]-4′-methoxybiphenyl-2-carbonitrile
2-{7-[4-Fluoro-2-methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}propan-2-ol was coupled to 2-bromo-3-fluorobenzonitrile (from Example 2, step a) under the conditions described in Example 1, step e. The residue was purified by flash column chromatography (silica gel, 3% isopropyl alcohol in dichloromethane) to give the title compound in 40% yield: 1H NMR (400 MHz, CDCl3) δ 1.69 (6H, s), 3.53 (1H, s), 3.96 (3H, s), 6.96 (1H, d, J 10.3), 7.43–7.62 (3H, m), 8.11 (1H, d, J 7.9), 8.34 (1H, s), 8.71(1H, s); MS (ES+) m/z 422 [M+H]+

reactant | 2-{7-[4-Fluoro-2-methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}propan-2-ol | FC1=CC(=C(C=C1B1OC(C(O1)(C)C)(C)C)C1=CN=C2N1N=CC(=N2)C(C)(C)O)OC | C21H26BFN4O4
reactant | 2-bromo-3-fluorobenzonitrile | BrC1=C(C#N)C=CC=C1F | C7H3BrFN
product | 6,2′-Difluoro-5′-[3-(1-hydroxy-1-methylethyl)imidazo[1,2-b][1,2,4]triazin-7-yl]-4′-methoxybiphenyl-2-carbonitrile | 40% yield | FC=1C=CC=C(C1C1=C(C=C(C(=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O)OC)F)C#N | C22H17F2N5O2
